US07053107B2
2-[3-(Pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzoic acid
Prepared in a similar manner to that described for Example 11 in U.S. Pat. No. 6,534,524, issued Mar. 18, 2003, herein incorporated by reference in its entirety for all purposes, except using 2-[3-(Pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzoic acid instead of N-methyl-N-{3-styryl-1-[2-trimethyl-silanyl)-ethoxymethyl]-1H-indazol-6-yl}-benzene-1,3-diamine. 1H NMR (DMSO-d6) δ 13.12 (1H, s), 12.70 (1H, s), 8.94 (1H, s), 8.10 (1H, d, J=8.7 Hz), 7.91 (1H, dd, J=1.7, 7.7 Hz), 7.50 (2H, t, J=2.3 Hz), 7.36 (1H, d, J=7.9 Hz), 7.27 (1H, d, J=1.5 Hz), 7.16 (1H, t, J=7.5 Hz), 6.94 (1H, dd, J=1.7, 8.7 Hz), 6.68 (1H, t, J=7.5 Hz), 6.19(2H, t, J=2.3 Hz).

reactant | 2-[3-(Pyrrol-1-yliminomethyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazol-6-ylamino]-benzoic acid | N1(C=CC=C1)N=CC1=NN(C2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1)COCC[Si](C)(C)C | C25H29N5O3Si
reactant | benzene-1,3-diamine | C1(=CC(=CC=C1)N)N | C6H8N2
product | 2-[3-(Pyrrol-1-yliminomethyl)-1H-indazol-6-ylamino]-benzoic acid | N1(C=CC=C1)N=CC1=NNC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1 | C19H15N5O2
